US07906677B2
N-(2′,4′Dichloro-6′-methylphenyl)-4-ethylaniline (4.83 g as a mixture with the byproduct N,N-di-(4-ethylphenyl)-2′,4′-dichloro-6′-methylaniline) is dissolved in 4.18 g of chloro acetylchlorid and heated to 100° C. for 1.5 h. The mixture is cooled, diluted with toluene (50 ml) and extracted with aqu. sodium bicarbonate. The organic phase is evaporated to dryness and chromatographed on silica (75 g) eluting with toluene to afford unreacted N,N-di-(4-ethylphenyl)-2′,4′-dichloro-6′-methylaniline and N-(2′,4-dichloro-6′-methylphenyl)-N-chloroacetyl-4-ethylaniline (2.95 g). A crystallised sample melts at 83-84° C.

reactant | N-(2′,4′Dichloro-6′-methylphenyl)-4-ethylaniline | ClC1=C(C(=CC(=C1)Cl)C)NC1=CC=C(C=C1)CC | C15H15Cl2N
reactant | chloro acetylchlorid | 4.18 g | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2′,4-dichloro-6′-methylphenyl)-N-chloroacetyl-4-ethylaniline | 2.95 g | ClC1=C(C(=CC(=C1)Cl)C)N(C1=CC=C(C=C1)CC)C(CCl)=O | C17H16Cl3NO
